data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,1514,"COC1(OC)C2C=CC1C(C1=CCC(O[Si](C)(C)C(C)(C)C)C1)([O:1][H:2])C2.[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9840,"CCOC(=O)[CH:1]([H:2])[C:3](C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7610,"[CH2:1]=[CH:2][CH:3]=[OH+:4].[OH2:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10102,"COC(=O)C1(C)CCCC2(C)C3C[CH+:1]C4(C)CCC3(CCC12)C4.O.O=C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,2347,"CC(C)(C)[O:1][H:2].CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=C1C(O)=CC(C1=CC=CC=C1)C(C1=CC=CC=C1)(C(F)(F)F)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9433,"CC(=O)OI1(OC(C)=O)([O+:1](CC2CCCN2C(=O)C2=CC=CN2)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,348,"C=CC(C)C(O[B:1]1OC(C)(C)C(C)(C)O1)C1=CC=CC=C1.OCCN(CCO)CC[OH:2]|(2, 1)"
train,pmechdb_split_0,0,6905,"CC[B-:1](CC)(CC)[H:2].[Li][O+:3]=[C:4](CCC)N(CCC)CCC|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1266,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OCC[O:1][CH:2](C1=C(Br)C=C2OCOC2=C1)[OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1642,"CC(C)(C)[Si:1](C)(C)[N+]1=CNC=C1.CC1(C[OH:2])CC(C)(C)C2OC2C1=O.[Cl-]|(2, 1)"
train,pmechdb_split_0,0,459,"CC[SiH](CC)CC.OC12C3=CC=CC=C3C1CCCCC[C:1]21[O+:2]([B-](F)(F)F)CC[O:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7361,"C1=CC=C([CH:1]=[OH+:2])C=C1.[CH2:3]=[CH:4][OH:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6171,"C1=CCCCC(C[O-:1])CCCC1.CS(=O)(=O)[O-].[AlH3].[Li+:2]|(1, 2)"
train,pmechdb_split_0,0,2429,"C=CCCC1=C(OC(=O)C2=CC=CC=C2)C(=O)C(=C)C1C(C)C.C=CCCCC[C:1](O)([H:2])[C:3]1=[N+:4](CC2=CC=CC=C2)C(C)=C(CCO)S1.CC[N:5](CC)CC.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4512,"CC(C)(C)OC(=O)N1CCC2=C3C=C(C(=O)[O-:1])NC3=CC=C21.CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:2](CCC1=CC=C([N+](=O)[O-])C=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8988,"CC(C)CC1CCCC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C.CC(C)[O-]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9061,"C[Si:1](C)(C)Cl.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,2010,"CC1([O-:1])CCC(=O)C1.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,805,"CC(C)(C[N+](=O)[O-])[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4406,"C1=CC=C([CH2:1][Cl:2])C=C1.O=C1C2=C(C=CC=C2)C(=O)[N-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4280,"N#CC1=CO[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3858,"N#[N+]C1=C([NH2:1])C=CC=C1.[N:2]#[O+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5790,"CO[C:1](C1=CC=CC=C1)([O:2]C)[O-:3].[Mg+][Br]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2864,"CCO.CCOP(=O)(OCC)C(C)C(=O)CC1CCC[C:1]1=[O+:2]CCO.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3189,"CCOC(=O)C(C[CH:1]=[C:2](C)[O-:3])C(=O)OCC.[H:4][OH2+:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8236,"C1=C[CH:1]=[CH:2]N1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2327,"C[C:1](C)=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9301,"COC1=CC(C([O-])(C(Br)(Br)Br)[O:1][H:2])=CC(OC)=C1C(=O)C1=C(OC)C=CC=C1C#N.[Br-].[Na+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8403,"CC1CCCC(C2=CC=CC=C2)[CH:1]=[C:2]1C.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3628,"CC(C)[C:1]1([H:2])C=C(C(F)(F)F)O[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,4242,"CC(C)[N-:1]C(C)C.CC[N:2](CC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2693,"CC1CCCCC1(N1CCCC1)[O-:1].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8028,"CC(CCC1CCCC1)O[S:1](Cl)([O-:2])[Cl:3].CC([OH2+])CCC1CCCC1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9388,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.ClC(Cl)(Cl)[C:2](=[O:3])[C:4](Cl)(Cl)[Cl:5].OC1=CC=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2782,"COC1=CC=C(COC(=O)C(CCO)NC(=O)C(C)N[C:1](OCC2C3=CC=CC=C3C3=C2C=CC=C3)([O-:2])[O:3]N2C(=O)CCC2=O)C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1054,"C1=C[N:1]=CN1.CC1(C[O+:2]([Si-](C)(C)([N+]2=CNC=C2)C(C)(C)C)[H:3])CC(C)(C)C2OC2C1=O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10410,"C[O:1][CH+:2][NH-]|(1, 2)"
train,pmechdb_split_0,0,10003,"COC1=CC=CC(CC[NH:1][C:2](C)=[O:3])=C1.Cl[P:4](Cl)(Cl)=[O:5]|(1, 2);((2, 3), 4);((4, 5), 5)"
train,pmechdb_split_0,0,4229,"COC(=O)C1(C)C(SC)C(=O)[N+:1](CC[C:2]2=[CH:3]C=C[C:4]([O:5]C)=[CH:6]2)=[CH:7]1.CS(=O)(=O)[O-].O|(5, 4);((4, 6), 2);((2, 3), 7);((7, 1), 1)"
train,pmechdb_split_0,0,3642,"CC1=CC=C(S(=O)(=O)OC(C)CC[CH:1]=[N:2]C)C=C1.[H:3][AlH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3561,"CC(=O)CCC[CH:1]([H:2])[C:3](C)=[O:4].CC[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3914,"OP(O)(O)(Br)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4262,"CO[C:1](O)=[N+:2](C)C.C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6883,"CC(=O)[CH:1]=[CH2:2].CO.C[S-:3]|(3, 2);((2, 1), 1)"
